* ADA4610
*Node Assignments
*               Non-Inverting Input
*               |   Inverting Input
*               |   |   Positive supply
*               |   |   |   Negative supply
*               |   |   |   |   Output
*               |   |   |   |   |
.Subckt ADA4610 100 101 102 103 104
***Power Supplies***
Rz1    102    1020    Rideal    1e-6
Rz2    103    1030    Rideal    1e-6
Ibias    1020    1030    dc    0.33e-3
DzPS    98    1020    diode
Iquies    1020    98    dc    1.269e-3
S1    98    1030    106    113    Switch
R1    1020    99    Rideal    1e7
R2    99    1030    Rideal    1e7
e1    111    110    1020    110    1
e2    110    112    110    1030    1
e3    110    0    99    0    1
*
*
***Inputs***
B_IbiasP 110 2 I=TABLE(V(100), -4.1, -100p, -4, -14.2p, -3.5, 7.9p, -3.4, 8.9p, -3, 7.9p, -2.7, 3.9p, -2.3, 1.6p, -2, 2.4p, 4, 5.2p, 4.2, 50p, 5, 200p)
IbiasN    110    9    dc    3e-12
S2    1    100    106    113    Switch
S3    9    101    106    113    Switch
VOS    1    2    dc    0.2e-6
RinCMP    110    2    Rideal    20000000000000e6
RinCMN    9    110    Rideal    20000000000000e6
CinCMP    110    2    5.7e-12
CinCMN    9    110    5.7e-12
RinDiff    9    2    Rideal    20000000000000e3
CinDiff    9    2    2.2e-12
*
*
***Non-Inverting Input with Clamp***
g1    3    110    110    2    0.001
RInP    3    110    Rideal    1e3
RX1    40    3    Rideal    0.001
DInP    40    41    diode
DInN    42    40    diode
VinP    111    41    dc    2.96
VinN    42    112    dc    2.96
*
*
***Vnoise***
hVn    6    5    Vmeas1    707.10678
Vmeas1    20    110    DC    0
Vvn    21    110    dc    0.65
Dvn    21    20    DVnoisy
hVn1    6    7    Vmeas2    707.10678
Vmeas2    22    110    dc    0
Vvn1    23    110    dc    0.65
Dvn1    23    22    DVnoisy
*
*
***Inoise***
.param Ena=1.54f Enb=-0.161f
.param Enc=1.14e-18 Enr=989.6m
FnIN 9 110 VIIN 1
R1IN I_n3 110 1 Noiseless
VIIN I_n2 I_n3 0
R2IN I_n1 110 100k Noiseless
A1IN 110 110 110 110 110 110 I_n1 110 OTA G=10u Iout=1m En={Ena}+{Enb}*Pwr({Enr},freq)+{Enc}*freq Vhigh=1k Vlow=-1k
G1IN 110 I_n2 I_n1 110 1
*
FnIP 2 110 VIIP 1
R1IP I_p3 110 1 Noiseless
VIIP I_p2 I_p3 0
R2IP I_p1 110 100k Noiseless
A1IP 110 110 110 110 110 110 I_p1 110 OTA G=10u Iout=1m En={Ena}+{Enb}*Pwr({Enr},freq)+{Enc}*freq Vhigh=1k Vlow=-1k
G1IP 110 I_p2 I_p1 110 1
*
***CMRR***
RcmrrP    3    10    Rideal    1e12
RcmrrN    10    9    Rideal    1e12
g10    11    110    10    110    -1e-10
Lcmrr    11    12    1e-12
Rcmrr    12    110    Rideal    1e3
e4    5    3    11    110    1
*
*
***Power Down***
VPD    111    80    dc    2
VPD1    81    0    dc    1.5
RPD    111    106    Rideal    0.286e6
ePD    80    113    82    0    1
RDP1    82    0    Rideal    1e3
CPD    82    0    1e-10
S5    81    82    83    113    Switch
CDP1    83    0    1e-12
RPD2    106    83    1e6
*
*
***Feedback Pin***
*RF    105    104    Rideal    0.001
*
*
***VFB Stage***
g200    200    110    7    9    1
R200    200    110    Rideal    250
DzSlewP    201    200    DzSlewP
DzSlewN    201    110    DzSlewN
*
*
***Dominant Pole at 350 Hz***
g210    210    110    200    110    460n ;0.3502e-6
R210    210    110    Rideal    454.73e6
C210    210    110    1p ;1e-12
*
*
***Output Voltage Clamp-1***
RX2    60    210    Rideal    0.001
DzVoutP    61    60    DzVoutP
DzVoutN    60    62    DzVoutN
DVoutP    61    63    diode
DVoutN    64    62    diode
VoutP    65    63    dc    5.709
VoutN    64    66    dc    5.428
e60    65    110    111    110    1.34
e61    66    110    112    110    1.34
*
*
***Pole-Zero at 84KHz, 180KHz***
g220    220    110    210    110    0.001
R220    220    110    Rideal    1000
R221    220    221    Rideal    0.875e3
C220    221    110    1010.5064e-12
*
***Pole at 110MHz***
g230    230    110    220    110    0.001
R230    230    110    Rideal    1000
C230    230    110    1.4469e-12
*
***Buffer***
g240    240    110    230    110    0.001
R240    240    110    Rideal    1000
*
***Buffer***
g245    245    110    240    110    0.001
R245    245    110    Rideal    1000
*
***Buffer***
g250    250    110    245    110    0.001
R250    250    110    Rideal    1000
*
***Buffer***
g255    255    110    250    110    0.001
R255    255    110    Rideal    1000
*
***Buffer***
g260    260    110    255    110    0.001
R260    260    110    Rideal    1000
*
***Buffer***
g265    265    110    260    110    0.001
R265    265    110    Rideal    1000
*
***Buffer***
g270    270    110    265    110    0.001
R270    270    110    Rideal    1000
*
***Notch: f=2.2MHz, Zeta=1.2, Gain=0.8dB***
e280    280    110    270    110    1
R280    280    285    Rideal    10
L280    285    281    3425.757e-9
C280    281    282    1527.698e-12
R281    282    110    Rideal    103.65
*
***Peak: f=0.5MHz, Zeta=3.1, Gain=5.1dB***
e290    290    110    285    110    1
R290    290    292    Rideal    10
L290    290    291    513.402e-9
C290    291    292    197351.907e-12
R291    292    110    Rideal    12.518
e295    295    110    292    110    1.7989
*
*
***Output Stage***
g300    300    110    295    110    0.001
R300    300    110    Rideal    1000
e301    301    110    300    110    1
Rout    302    303    Rideal     163
Lout    303    310     80e-9
Cout    310    110     6e-12
*
*
***Output Current Limit***
H1    301    304    Vsense1    100
Vsense1    301    302    dc    0
VIoutP    305    304    dc    5.736
VIoutN    304    306    dc    5.736
DIoutP    307    305    diode
DIoutN    306    307    diode
Rx3    307    300    Rideal    0.001
*
*
***Output Clamp-2***
VoutP1    111    73    dc    0.785
VoutN1    74    112    dc    0.785
DVoutP1    75    73    diode
DVoutN1    74    75    diode
RX4    75    310    Rideal    0.001
*
*
***Supply Currents***
FIoVcc    314    110    Vmeas8    1
Vmeas8    310    311    dc    0
R314    110    314    Rideal    1e9
DzOVcc    110    314    diode
DOVcc    102    314    diode
RX5    311    312    Rideal    0.001
FIoVee    315    110    Vmeas9    1
Vmeas9    312    313    dc    0
R315    315    110    Rideal    1e9
DzOVee    315    110    diode
DOVee    315    103    diode
*
*
***Output Impedance***
*
Rzo2 313a Zoi {Ro1}
Czo2 313a Zoi {Co1}
Rzo1 Zoi 313 {Ro}
Czo1 Zoi 313 {Co}
Czo4 313a 110 {Cp}
Czo3 Zoi 110 {Cp}
.param Ro=800 Co=500n
.param Ro1=120 Ro2=10 Co1=2n
.param Cp=10p
*
***Output Switch***
S4    104    313a    106    113    Switch
*
*
*** Common Models ***
.model    diode    d(bv=100 Noiseless)
.model    Switch    vswitch(Von=1.505 Voff=1.495 ron=0.001 roff=1e6 Noiseless)
.model    DzVoutP    D(BV=4.3 Noiseless)
.model    DzVoutN    D(BV=4.3 Noiseless)
.model    DzSlewP    D(BV=174.665 Noiseless)
.model    DzSlewN    D(BV=174.665 Noiseless)
.model    DVnoisy    D(IS=2.03e-15 KF=8.16e-18)
.model    DINnoisy    D(IS=1.45e-22 KF=8.13e-18 Noiseless)
.model    DIPnoisy    D(IS=1.45e-22 KF=8.13e-18 Noiseless)
.model    Rideal    res(T_ABS=-273.15)
*
.ends ADA4610